US05250522
A stirred solution of (S)-2-(t-butoxycarbonylamino)-3-(biphenyl-4-yl)-propionic acid benzyl ester (3.95 g, 9.15 mmol) in ethyl acetate (40 mL) under nitrogen is cooled to 0° and treated with hydrochloric acid gas (4 g). A precipitate appears and the mixture is warmed to room temperature and stirred for 1 hour. Ether (25 mL) is added and the solid is filtered off and briefly dried under high vacuum for 1 hour. (S)-2-amino-3-(biphenyl-4-yl)-propionic acid benzyl ester hydrochloride is obtained as white solid, [α]D =-21.14 (c 0.92, MeOH).

reactant | (S)-2-(t-butoxycarbonylamino)-3-(biphenyl-4-yl)-propionic acid benzyl ester | 9.15 mmol, 3.95 g | C(C1=CC=CC=C1)OC([C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C27H29NO4
reactant | hydrochloric acid | 4 g | Cl | ClH
reactant | Ether | 25 mL | CCOCC | C4H10O
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | (S)-2-amino-3-(biphenyl-4-yl)-propionic acid benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OC([C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)N)=O | InChI=1S/C22H21NO2.ClH/c23-21(22(24)25-16-18-7-3-1-4-8-18)15-17-11-13-20(14-12-17)19-9-5-2-6-10-19;/h1-14,21H,15-16,23H2;1H/t21-;/m0./s1
